US04304728
6-[2-(4-Hydroxyphenyl)ethenyl]-4-oxo-4H-pyran-2-carboxylic acid
Boron tribromide (2.5 ml) was added to a stirred suspension of 6-[2-(4-methoxyphenyl)ethenyl]-4-oxo-4H-pyran-2-carboxylic acid (1.4 g) in methylene chloride (140 ml) and the mixture was stirred for 3 hours at room temperature and 1 hour under reflux. Water (30 ml) was added to the stirred mixture and the solid product was crystallised from ethanol-water to give the title product (mp 256° C. with decomposition).

reactant | Boron tribromide | 2.5 ml | B(Br)(Br)Br | BBr3
reactant | 6-[2-(4-methoxyphenyl)ethenyl]-4-oxo-4H-pyran-2-carboxylic acid | 1.4 g | COC1=CC=C(C=C1)C=CC1=CC(C=C(O1)C(=O)O)=O | C15H12O5
reactant | Water | 30 ml | O | H2O
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 6-[2-(4-Hydroxyphenyl)ethenyl]-4-oxo-4H-pyran-2-carboxylic acid | OC1=CC=C(C=C1)C=CC1=CC(C=C(O1)C(=O)O)=O | C14H10O5
